US06642256B2
To a stirring solution of 1-amino-3-(4-benzylpiperidin-1-yl)propan-2-ol (2.00 g, 6.23 mmol) in 1,4-dioxan/H2O (4:1, 25 mL) was added solid sodium hydroxide (0.28 g, 6.85 mmol). On full dissolution of the sodium hydroxide, dibenzyl dicarbonate (1.96 g, 6.85 mmol) was added. The resulting solution was stirred for 22 hours. The reaction mixture was condensed to dryness in vacuo to give a yellow gum. This was redissolved in EtOAc, washed with saturated aqueous sodium bicarbonate solution, and saturated brine. The organic phase was dried (MgSO4) and condensed to dryness in vacuo to give a yellow oil. The oil was subject to column chromatography [silica gel, MeOH-DCM (0-20% MeOH over 30 minutes)] to give [3-(4-benzylpiperidin-1-yl)-2-hydroxypropyl]carbamic acid benzyl ester (1.64 g, 69%) as an orange solid:

reactant | 1-amino-3-(4-benzylpiperidin-1-yl)propan-2-ol | 6.23 mmol, 2.00 g | NCC(CN1CCC(CC1)CC1=CC=CC=C1)O | C15H24N2O
reactant | sodium hydroxide | 6.85 mmol, 0.28 g | [OH-].[Na+]
reactant | dibenzyl dicarbonate | 6.85 mmol, 1.96 g | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | 1,4-dioxan H2O | 25 mL | O1CCOCC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [3-(4-benzylpiperidin-1-yl)-2-hydroxypropyl]carbamic acid benzyl ester | 1.64 g, 69% | C(C1=CC=CC=C1)OC(NCC(CN1CCC(CC1)CC1=CC=CC=C1)O)=O | C23H30N2O3
